US09446348B2
1-(2,3-Dihydroxypropyl)-3-ethylimidazolium Chloride (RTIL 3)
1-Ethylimidazole (2.40 g, 25.0 mmol) and 3-chloro-1,2-propanediol (2.76 g, 25.0 mmol) were stirred in a 130° C. oil bath for 48 h, after which the flask was placed under vacuum and stirring continued at 130° C. for another 48 h. The residue was then dissolved in CH3OH, transferred to a tared flask and concentrated to afford the product as a viscous brown oil (4.88 g, 94%). 1H NMR: δH ppm (400 MHz; DMSO-d6) 1.41 (t, J=7.24 Hz, 3H) 3.23 (dd, J=11.17, 6.96 Hz, 1H) 3.37-3.47 (m, 1H) 3.70-3.86 (m, 1H) 4.11 (dd, J=13.74, 7.69 Hz, 1H) 4.22 (q, J=7.33 Hz, 2H) 4.33 (dd, J=13.74, 3.11 Hz, 1H) 5.19 (br. s., 1H) 5.59 (br. s., 1H) 7.78 (t, J=1.74 Hz, 1H) 7.85 (t, J=1.74 Hz, 1H) 9.33 (t, J=1.56 Hz, 1H).

reactant | 1-Ethylimidazole | 25.0 mmol, 2.40 g | C(C)N1C=NC=C1 | C5H8N2
reactant | 3-chloro-1,2-propanediol | 25.0 mmol, 2.76 g | ClCC(CO)O | C3H7ClO2
solvent | CH3OH | CO | CH4O
product | 1-(2,3-Dihydroxypropyl)-3-ethylimidazolium Chloride | 4.88 g, 94% | [Cl-].OC(C[N+]1=CN(C=C1)CC)CO | InChI=1S/C8H15N2O2.ClH/c1-2-9-3-4-10(7-9)5-8(12)6-11;/h3-4,7-8,11-12H,2,5-6H2,1H3;1H/q+1;/p-1
